US08030311B2
Step 7.5: 3′-Bromo-2-trifluoromethyl-biphenyl-4-amine
The title compound is prepared as described in Ex. 3 (Step 3.1) for 1-(3′-chloro-2-trifluoromethyl-biphenyl-4-yl)-3-{4-[2-(4-dimethylamino-butylamino)-pyrimidin-4-yloxy]-2-methyl-phenyl}-urea but using 3-bromophenylboronic acid (Aldrich). The title compound: MS: 315.9 [M-1]−; HPLC DtRet=4.9; Rf=0.16 (Hexane/EtOAc, 4:1).

reactant | 1-(3′-chloro-2-trifluoromethyl-biphenyl-4-yl)-3-{4-[2-(4-dimethylamino-butylamino)-pyrimidin-4-yloxy]-2-methyl-phenyl}-urea | ClC=1C=C(C=CC1)C1=C(C=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC1=NC(=NC=C1)NCCCCN(C)C)C)C(F)(F)F | C31H32ClF3N6O2
reactant | 3-bromophenylboronic acid | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | 3′-Bromo-2-trifluoromethyl-biphenyl-4-amine | BrC=1C=C(C=CC1)C1=C(C=C(C=C1)N)C(F)(F)F | C13H9BrF3N
